US05972961
A stirred neat mixture of 4-aminobenzotrifluoride (35 g, 0.218 mol) and (Boc)2O(52.4 g, 0.24 mol) was heated at 80° C. for 2-3 hours until CO2 evolution ceased. The mixture was allowed to cool and the tBuOH was rotary evaporated. The resultant white solid was recrystallized from hexanes/ether to provide white needles (50.6 g, 89%) of N-(tert-butoxycarbonyl)-4-aminobenzotrifluoride.

reactant | 4-aminobenzotrifluoride | 0.218 mol, 35 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
reactant | (Boc)2O | 0.24 mol, 52.4 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | CO2 | C(=O)=O | CO2
solvent | tBuOH | CC(C)(C)O | C4H10O
product | N-(tert-butoxycarbonyl)-4-aminobenzotrifluoride | 50.6 g, 89% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(F)(F)F | C12H14F3NO2
